US07754717B2
A pressure vessel was charged with methyl 3-bromo-4-methylbenzoate (5.0 g, 22 mmol), DMF (20 ml), water (1.25 ml) and tributylamine (8 ml, 34 mmol). Cesium acetate (2.1 g, 11 mmol) was then added and the flask was purged with N2. Palladium acetate (0.25 g, 1.0 mmol) and triphenylphosphine (2.9 g, 11 mmol) were added and the flask was purged with CO gas. The reaction mixture was then heated at 90° C. under 20 psi of CO gas with vigorous stirring overnight. The reaction mixture was diluted with 50 mL of toluene and extracted with saturated NaHCO3 (3×50 ml). The combined aqueous layer was washed with EtOAc (10 mL), then acidified using 2 N HCl to pH 5. The volume was reduced to about 50 mL and the resulting precipitate was collected by filtration, washed with water and dried to give 5-(methoxycarbonyl)-2-methylbenzoic acid as a white solid. MS (ESI, pos. ion) m/z: 193.1 (M−1).

reactant | methyl 3-bromo-4-methylbenzoate | 22 mmol, 5.0 g | BrC=1C=C(C(=O)OC)C=CC1C | C9H9BrO2
reactant | tributylamine | 34 mmol, 8 ml | C(CCC)N(CCCC)CCCC | C12H27N
reactant | Cesium acetate | 11 mmol, 2.1 g | C(C)(=O)[O-].[Cs+]
reactant | triphenylphosphine | 11 mmol, 2.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | Palladium acetate | 1.0 mmol, 0.25 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 1.25 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-(methoxycarbonyl)-2-methylbenzoic acid | COC(=O)C=1C=CC(=C(C(=O)O)C1)C | C10H10O4
